US07635700B2
To a stirred mixture of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.47 g, 1.4 mmol) in acetonitrile (10 mL), was added 3-fluoro-benzoyl chloride (0.25 mL, 2.1 mmol) and N,N-diisopropyl ethylamine (0.61 mL, 3.5 mmol). The mixture was stirred at room temp overnight. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-3-fluoro-benzamide as a white solid (230 mg, 40% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 5.80 min (98.8%); mp, 240-242° C.; 1HNMR (DMSO-d6) 2.18-2.24 (m, 1H, CHH), 2.59-2.93 (m, 6H, CHCH2, CH3), 4.93-5.10 (m, 2H, CH2NH), 5.28 (dd, J=6, 11 Hz, 1H, CH), 7.36-7.80 (m, 7H, Ar), 9.08 (t, 1H, J=6 Hz, CH2NH), 11.06 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.79, 23.07, 30.58, 42.16, 56.58, 113.94, 114.24, 117.52, 118.09, 118.36, 123.38, 123.41, 124.16, 124.99, 130.52, 130.62, 134.12, 136.52, 136.61, 140.79, 147.84, 155.29, 160.39, 160.90, 163.62, 164.99, 165.02, 169.45, 172.60. LCMS MH=423; Anal Calcd For C22H19N4O4F+0.4H2O: C, 61.51; H, 4.65; N, 13.04; F, 4.42. Found: C, 61.32; H, 4.44; N, 12.97; F, 4.27.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.4 mmol, 0.47 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | 3-fluoro-benzoyl chloride | 2.1 mmol, 0.25 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | N,N-diisopropyl ethylamine | 3.5 mmol, 0.61 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-3-fluoro-benzamide | 230 mg, 40% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(C1=CC(=CC=C1)F)=O)C)=O | C22H19FN4O4
